US07741484B2
A solution of 2-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-3-phenylamino-acrylonitrile (280 g, 0.64 mol), guanidine carbonate (110 g, 0.61 mol), and 560 ml of DMF was heated to 120° C. for 18 hours. After cooling the mixture to 60° C., 140 ml of ethyl acetate was added. Water (1.12 L) was then added to the mixture at a rate to maintain an internal temperature of 50° C. The resulting slurry was cooled to 20° C. and aged. Precipitated solids were collected by filtration, washed with water (300 ml) followed by isopropanol (500 ml), and dried in a vacuum oven (50° C., 24 inches Hg) to give 242 g of 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine, 94% yield: m.p. 204.4-205.9 degrees C.; 1HNMR (DMSO) δ=1.2 (d, 6H), 3.3 (m, 1H), 3.8 (s, 3H), 5.85 (s, 2H), 6.4 (s, 2H), 6.9 (d, 2H), 7.35 (s, 1H)

reactant | 2-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-3-phenylamino-acrylonitrile | 0.64 mol, 280 g | IC=1C(=CC(=C(OC(C#N)=CNC2=CC=CC=C2)C1)C(C)C)OC | C19H19IN2O2
reactant | guanidine carbonate | 0.61 mol, 110 g | C(O)(O)=O.NC(=N)N
reactant | DMF | 560 ml | CN(C)C=O | C3H7NO
reactant | ethyl acetate | 140 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 1.12 L | O | H2O
product | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 242 g, 94% yield | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
